US08124610B2
2-Fluoro-N-thiazol-2-yl-4-thioureido-benzenesulfonamide
Carbonothioic dichloride (25 uL, 0.00032 mol) was added to a mixture of the 4-amino-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (105 mg, 0.000271 mol) and N,N-diisopropylethylamine (0.14 mL, 0.00081 mol) in tetrahydrofuran (1.5 mL, 0.018 mol) at 0° C. and stirred for 40 min. Sat'd NH4OH solution was added to the reaction mixture and stirred for a few min. The reaction mixture was rotovaped to remove THF. The aq phase was acidified with 1.0 N HCl (pH 6), extracted with EtOAc (3×), dried, and was concentrated to give the crude product, which was purified via automated flash chromatography (silica gel, 25% EtOAc in hexanes to 100% EtOAc). 32 mg (36%) of the product was obtained as a yellow solid.

reactant | Carbonothioic dichloride | 0.00032 mol, 25 uL | C(=S)(Cl)Cl | CCl2S
reactant | 4-amino-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.000271 mol, 105 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H8FN3O2S2
reactant | N,N-diisopropylethylamine | 0.00081 mol, 0.14 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tetrahydrofuran | 0.018 mol, 1.5 mL | O1CCCC1 | C4H8O
reactant | NH4OH | [NH4+].[OH-]
product | 2-Fluoro-N-thiazol-2-yl-4-thioureido-benzenesulfonamide | 32 mg, 36% | FC1=C(C=CC(=C1)NC(=S)N)S(=O)(=O)NC=1SC=CN1 | C10H9FN4O2S3
